US04267193
N-(2-Cyanoethyl)-2,6-Dimethyl-4-(Hexafluoro-2-Hydroxy-2-Propyl)Aniline
Combine N-(2-cyanoethyl)-2,6-dimethylaniline (40 g, 0.23 mol) and hexafluoroacetone sesquihydrate (97 g, 0.50 mol) with 1.0 g p-toluenesulfonic acid and reflux 6 hours. Add more hexafluoroacetone sesquihydrate (48 g, 0.25 mol) and reflux 16 hours. Allow to cool, pour onto water, and collect the solid. Dissolve the solid in ether, dry and concentrate. Recrystallize from ether-hexane to obtain the title compound as a white solid, m.p. 111°-114° C.

reactant | N-(2-cyanoethyl)-2,6-dimethylaniline | 0.23 mol, 40 g | C(#N)CCNC1=C(C=CC=C1C)C | C11H14N2
reactant | hexafluoroacetone sesquihydrate | 0.50 mol, 97 g | O.FC(C(=O)C(F)(F)F)(F)F.O.O.FC(C(=O)C(F)(F)F)(F)F
reactant | p-toluenesulfonic acid | 1.0 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | hexafluoroacetone sesquihydrate | 0.25 mol, 48 g | O.FC(C(=O)C(F)(F)F)(F)F.O.O.FC(C(=O)C(F)(F)F)(F)F
product | N-(2-Cyanoethyl)-2,6-Dimethyl-4-(Hexafluoro-2-Hydroxy-2-Propyl)Aniline | C(#N)CCNC1=C(C=C(C=C1C)C(C(F)(F)F)(C(F)(F)F)O)C | C14H14F6N2O
